US07994185B2
Step C: N-{3-[5-(2-Amino-4-pyrimidinyl)-2-cyclohexyl-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to Example 21 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-cyclohexyl-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (0.10 g, 0.177 mmol) and NH4OH (3 mL) the title compound was obtained (0.055 g, 57% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.88 (br. s., 1H), 7.97 (br. s., 1H), 7.68 (br. s., 1H), 7.09-7.57 (m, 5H), 6.75 (br. s., 2H), 5.84 (br. s., 1H), 2.98 (d, J=0.5 Hz, 1H), 2.06 (br. s., 2H), 1.59-1.91 (m, 3H), 1.06-1.59 (m, 5H). m/z (ES+): 546 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-cyclohexyl-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.177 mmol, 0.10 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCCCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C25H20ClF3N4O2S2
reactant | NH4OH | 3 mL | [NH4+].[OH-]
product | N-{3-[5-(2-Amino-4-pyrimidinyl)-2-cyclohexyl-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 57% yield | NC1=NC=CC(=N1)C1=C(N=C(S1)C1CCCCC1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C25H22F3N5O2S2
